data/mechanism_extracts/ChemCommun/10.1039_D5CC03082J_sup_1.json
{"doi": "10.1039_D5CC03082J_sup_1", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical Ni-catalyzed allylation/alkenylation of β-ketoesters with 1,1-diphenylethylene (and allyl-TMS) via anodic oxidation generating carbon radical intermediates", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "electrocatalysis_inner_sphere", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of Ni(II)-enolate complex generates an α-carbonyl radical (radical cation intermediate); cathode reduces protons to H2 and assists desilylation/turnover", "key_intermediates": [{"name": "Ni(II)-enolate of methyl 1-oxo-indane-2-carboxylate (A')", "smiles": null, "role": "resting_state"}, {"name": "Anodically oxidized Ni-bound α-carbonyl radical cation (B')", "smiles": null, "role": "reactive"}, {"name": "Ni(II)-bound C-C coupled alkyl intermediate after addition to allyl-TMS (C')", "smiles": null, "role": "transient"}, {"name": "β-silyl carbocation (D') after second anodic oxidation", "smiles": null, "role": "reactive"}, {"name": "Allyl-substituted β-ketoester product 31 (after desilylation)", "smiles": null, "role": "reactive"}], "electron_flow": "Ni(II) binds the β-ketoester enolate and is oxidized at the anode to a Ni-stabilized α-carbonyl radical/radical cation; this carbon radical adds to the alkene (1,1-diphenylethylene or allyl-TMS), and a second anodic oxidation yields a β-silyl carbocation that loses TMS+ (as TMSOH/TMS2O) to give the alkenylated product, while the cathode reduces protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3 not formed; TEMPO-adduct 50 isolated in 82% yield (HRMS [M+Na]+ 368.1831), supporting a carbon radical intermediate"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Product 3 not formed; BHT-adduct 51 isolated in 75% yield (HRMS [M+Na]+ 431.2183), consistent with radical trapping"}, {"name": "No current control", "smiles": null, "purpose": "other", "observation": "Without electrolysis under otherwise standard conditions, product 3 was not detected (0% yield), confirming requirement for anodic oxidation"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "on/off_light_or_current", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Mechanism (Scheme S3) is specifically proposed for the allyl-TMS variant forming product 31, invoking a radical-polar crossover where a β-silyl cation D' is intercepted by desilylation. For the 1,1-diphenylethylene case, only radical trapping evidence is shown; no DFT, CV, or KIE data provided. Cathodic chemistry includes H2 evolution and assistance in TMS removal via TMSOH/TMS2O."}
